US06147148
Lysine octanoate (35.0 g) was suspended in 300 ml of xylene using a 600-milliliter reaction vessel. The suspension was boiled through heating, and water formed through azeotropic distillation was removed outside the system. After it was identified that a stoichiometric amount of water was removed (reaction time 3 hours), the residue was cooled. Crystals precipitated were separated through filtration, and washed with 100 ml of a 50% ethanol solution. The crystals were recrystallized from a sulfuric acid aqueous solution to obtain 26.9 g of Nε -octanoyl lysine (yield 81.9%). This is designated Derivative B.

reactant | Lysine octanoate | 35.0 g | C(CCCCCCC)(=O)O.N[C@@H](CCCCN)C(=O)O
reactant | water | O | H2O
solvent | xylene | 300 ml | C=1(C(=CC=CC1)C)C | C8H10
product | Nε -octanoyl lysine | 26.9 g, yield 81.9% | C(CCCCCCC)(=O)NCCCC[C@H](N)C(=O)O | C14H28N2O3
